US07732626B2
2′,6′-dimethyl-4′-[3-(methylsulfonyl)propoxy]biphenyl-3-carbaldehyde
To a solution of 4′-hydroxy-2′,6′-dimethylbiphenyl-3-carbaldehyde (2.26 g, 10.0 mmol) and 3-(methylsulfonyl)propyl 4-methylbenzenesulfonate (3.51 g, 12.0 mmol) in N,N-dimethylformamide (20 mL) was added potassium carbonate (1.80 g, 13.0 mmol), and the mixture was stirred at 90° C. for 24 hr under nitrogen atmosphere. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed successively with 1 M aqueous sodium hydroxide solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=40:60+80:20), and the obtained crystals were recrystallized from heptane-ethyl acetate to give the title compound. (2.68 g, yield 77%) as colorless crystals.

reactant | 4′-hydroxy-2′,6′-dimethylbiphenyl-3-carbaldehyde | 10.0 mmol, 2.26 g | OC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)C=O)C | C15H14O2
reactant | 3-(methylsulfonyl)propyl 4-methylbenzenesulfonate | 12.0 mmol, 3.51 g | CC1=CC=C(C=C1)S(=O)(=O)OCCCS(=O)(=O)C | C11H16O5S2
reactant | potassium carbonate | 13.0 mmol, 1.80 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 2′,6′-dimethyl-4′-[3-(methylsulfonyl)propoxy]biphenyl-3-carbaldehyde | yield 77% | CC1=C(C(=CC(=C1)OCCCS(=O)(=O)C)C)C1=CC(=CC=C1)C=O | C19H22O4S
